US06194450B1
(b) Preparation of methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-bromomethylbenzoate
A solution of methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-methylbenzoate (7.02 g, 16.7 mmol), benzoyl peroxide (0.02 g) and N-bromosuccinimide (4.28 g, 24 mmol) in carbon tetrachloride (370 ml) was heated at reflux and irradiated with a 1000 W lamp for forty five minutes. 350 ml of water and 250 ml of dichloromethane were added. After separation of the phases once settling had taken place, the organic phase was washed twice with 350 ml of water and dried over magnesium sulfate. After concentration on a rotary evaporator at 40° C. under vacuum, the three products obtained were purified by flash chromatography (CH2Cl2) and then by HPLC (70% CH2Cl2, 30% heptane). The properties of the monobromo benzyl compound were as follows:

reactant | methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-methylbenzoate | 16.7 mmol, 7.02 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)COC=1C=C(C(=O)OC)C=CC1C)C | C25H30O4
reactant | benzoyl peroxide | 0.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 24 mmol, 4.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 350 ml | O | H2O
solvent | carbon tetrachloride | 370 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-bromomethylbenzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)COC=1C=C(C(=O)OC)C=CC1CBr)C | C25H29BrO4
